US05591862
According to the method described for Reference Example 45, 3-chloromethyl-1-methyl-5-phenyl-1,2,4-triazole was allowed to react with 4-(4-hydroxyphenyl)butyronitrile to give 4-[4-(1-methyl-5-phenyl-1,2,4-triazol-3-ylmethoxy)phenyl]butyronitrile. Recrystallization from dichloromethane-isopropyl ether gave colorless prisms, m.p.106°-107° C.

reactant | 3-chloromethyl-1-methyl-5-phenyl-1,2,4-triazole | ClCC1=NN(C(=N1)C1=CC=CC=C1)C | C10H10ClN3
reactant | 4-(4-hydroxyphenyl)butyronitrile | OC1=CC=C(C=C1)CCCC#N | C10H11NO
product | 4-[4-(1-methyl-5-phenyl-1,2,4-triazol-3-ylmethoxy)phenyl]butyronitrile | CN1N=C(N=C1C1=CC=CC=C1)COC1=CC=C(C=C1)CCCC#N | C20H20N4O
